US06821965B1
N-(3-dimethylaminophenyl)-4-methyl-3-(2-naphthoylamino)benzamide
Using an analogous procedure to that described in Example 1, 2-naphthoyl chloride was reacted with 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide to give the title compound; Mass Spectrum: M+H+ 424.

reactant | 2-naphthoyl chloride | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 3-amino-N-(3-dimethylaminophenyl)-4-methylbenzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)N(C)C)C=CC1C | C16H19N3O
product | N-(3-dimethylaminophenyl)-4-methyl-3-(2-naphthoylamino)benzamide | CN(C=1C=C(C=CC1)NC(C1=CC(=C(C=C1)C)NC(=O)C1=CC2=CC=CC=C2C=C1)=O)C | C27H25N3O2
